US06143423
In accordance with the procedure of Preparation Example 1, a polyimide resin solution was obtained using 288 grams (0.98 mol) of 3,3,4,4-biphenyltetracarboxylic dianhydride as a tetracarboxylic dianhydride component, 74.6 grams (0.3 mol) of 1,3-bis(3-aminopropyl)-1,1,3,3-tetramethyldisiloxane and 287.4 grams (0.7 mol) of 2,2-bis[4-(4-aminophenoxy)-phenyl]propane as diamine components, 6 grams (0.04 mol) of phthalic anhydride as a molecular weight modifier, and 2,600 grams of NMP as a solvent. The solution was poured into 5 liters of methanol whereupon a precipitate settled out. Vacuum drying yielded 615 grams of the end polyimide resin.

reactant | 3,3,4,4-biphenyltetracarboxylic dianhydride | 0.98 mol, 288 grams | C1=CC2=C(C=C1C3=CC4=C(C=C3)C(=O)OC4=O)C(=O)OC2=O | C16H6O6
reactant | 1,3-bis(3-aminopropyl)-1,1,3,3-tetramethyldisiloxane | 0.3 mol, 74.6 grams | NCCC[Si](O[Si](C)(C)CCCN)(C)C | C10H28N2OSi2
reactant | 2,2-bis[4-(4-aminophenoxy)-phenyl]propane | 0.7 mol, 287.4 grams | NC1=CC=C(OC2=CC=C(C=C2)C(C)(C)C2=CC=C(C=C2)OC2=CC=C(C=C2)N)C=C1 | C27H26N2O2
reactant | phthalic anhydride | 0.04 mol, 6 grams | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | NMP | 2,600 grams | CN1CCCC1=O | C5H9NO
solvent | methanol | 5 liters | CO | CH4O
product | polyimide resin | CC1(CC(C2=C1C=C(C=C2)N)(C)C3=CC=C(C=C3)N)C.C1=CC2=C(C=C1C(=O)C3=CC4=C(C=C3)C(=O)OC4=O)C(=O)OC2=O | InChI=1S/C18H22N2.C17H6O7/c1-17(2)11-18(3,12-4-6-13(19)7-5-12)15-9-8-14(20)10-16(15)17;18-13(7-1-3-9-11(5-7)16(21)23-14(9)19)8-2-4-10-12(6-8)17(22)24-15(10)20/h4-10H,11,19-20H2,1-3H3;1-6H
